US07723368B2
Step 3) 5-(4-Difluoromethoxy-phenylethynyl)-2-methoxy-benzonitrile
The title compound was prepared in substantially the same manner as described in Example 12, step 3 starting from 1-Difluoromethoxy-4-iodo-benzene (0.17 g, 0.64 mmol), and 5-Ethynyl-2-methoxy-benzonitrile (0.10 g, 0.64 mmol), and was obtained as a light brown solid, (0.170 g, 89%), identified by NMR and mass spectral analyses. MS (APPI+): 299 (M+)

reactant | 1-Difluoromethoxy-4-iodo-benzene | 0.64 mmol, 0.17 g | FC(OC1=CC=C(C=C1)I)F | C7H5F2IO
reactant | 5-Ethynyl-2-methoxy-benzonitrile | 0.64 mmol, 0.10 g | C(#C)C=1C=CC(=C(C#N)C1)OC | C10H7NO
product | 5-(4-Difluoromethoxy-phenylethynyl)-2-methoxy-benzonitrile | FC(OC1=CC=C(C=C1)C#CC=1C=CC(=C(C#N)C1)OC)F | C17H11F2NO2
